US05344843
A solution of 4-[3-(5,6-dihydro-6-oxo-5-phenanthridinyl)propoxy]-alpha-oxobenzeneacetic acid ethyl ester (0.4 g) in hot methanol (80 mL) was treated with sodium carbonate (0.118 g) in water (1.5 mL), and the reaction was stirred at room temperature for 4 hours. After the methanol was removed in vacuo, dichloromethane and water were added and the mixture was acidified with 3N hydrochloric acid. The resulting solid was filtered off, dried and crystallized from ethyl acetate-tetrahydrofuran to yield 0.321 g of 4-[3-(5,6-dihydro-6-oxo-5-phenanthridinyl)propoxy]-alpha-oxobenzeneacetic acid in two crops, mp 202°-204° C.

reactant | 4-[3-(5,6-dihydro-6-oxo-5-phenanthridinyl)propoxy]-alpha-oxobenzeneacetic acid ethyl ester | 0.4 g | C(C)OC(C(C1=CC=C(C=C1)OCCCN1C=2C=CC=CC2C2=CC=CC=C2C1=O)=O)=O | C26H23NO5
reactant | sodium carbonate | 0.118 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 80 mL | CO | CH4O
solvent | water | 1.5 mL | O | H2O
product | 4-[3-(5,6-dihydro-6-oxo-5-phenanthridinyl)propoxy]-alpha-oxobenzeneacetic acid | 0.321 g | O=C1N(C=2C=CC=CC2C2=CC=CC=C12)CCCOC1=CC=C(C=C1)C(C(=O)O)=O | C24H19NO5
